US06759426B2
(−)-Dimethyl (2S)-2-[(tert-butoxycarbonyl)amino]butanedioate
A solution of di-tert-butyl dicarbonate (10.3 g, 47 mmol) in dichloromethane (20 ml) was added dropwise to an ice-cooled solution of L-aspartic acid dimethyl ester hydrochloride (9.3 g, 47 mmol) and triethylamine (14.4 ml, 103 mmol) in dichloromethane (60 ml), and the mixture was stirred at room temperature for 18 hours. The solution was diluted with dichloromethane (60 ml), washed sequentially with water (5 ml), 5% aqueous sodium bicarbonate solution (50 ml) and brine (50 ml), then dried (Na2SO4) and evaporated under reduced pressure. The residual oil was triturated with hexane to afford the title compound as a white solid, 11 g. 1H-NMR (CDCl3 300 MHz) δ: 1.45 (s, 9H), 2.81 (dd, 1H), 3.00 (dd, 1H), 3.70 (s, 3H), 3.77 (s, 3H), 4.59 (m, 1H), 5.50 (m, 1H). LRMS: m/z (ES+) 262 [MH+]. [α]D=−10.91 (c=0.132, ethanol).

reactant | di-tert-butyl dicarbonate | 47 mmol, 10.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | L-aspartic acid dimethyl ester hydrochloride | 47 mmol, 9.3 g | Cl.COC([C@@H](N)CC(=O)OC)=O
reactant | triethylamine | 103 mmol, 14.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (−)-Dimethyl (2S)-2-[(tert-butoxycarbonyl)amino]butanedioate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC(=O)OC | C11H19NO6
